US09079911B2
2-[(3-Methylfuran-2-yl)carbonyl]-5-[5-(trifluoromethyl)pyridin-2-yl]octahydropyrrolo[3,4-c]pyrrole
The title compound was prepared in a manner analogous to Example 15, utilizing 2-(5-(trifluoromethyl)pyridin-2-yl)octahydropyrrolo[3,4-c]pyrrole and 3-methylfuran-2-carboxylic acid. MS (ESI) mass calcd. C18H18F3N3O2, 365.36; m/z found 366.0 [M+H]+. 1H NMR (CDCl3): 8.39 (s, 1H), 7.62 (d, J=9.1 Hz, 1H), 7.32 (d, J=1.4 Hz, 1H), 6.39 (d, J=8.8 Hz, 1H), 6.32 (d, J=1.4 Hz, 1H), 4.17 (brs, 1H), 3.94 (brs, 1H), 3.81 (brs, 3H), 3.71-3.67 (m, 1H), 3.50 (brs, 2H), 3.11 (brs, 2H), 2.37 (s, 3H).

reactant | 2-(5-(trifluoromethyl)pyridin-2-yl)octahydropyrrolo[3,4-c]pyrrole | FC(C=1C=CC(=NC1)N1CC2CNCC2C1)(F)F | C12H14F3N3
reactant | 3-methylfuran-2-carboxylic acid | CC1=C(OC=C1)C(=O)O | C6H6O3
product | 2-[(3-Methylfuran-2-yl)carbonyl]-5-[5-(trifluoromethyl)pyridin-2-yl]octahydropyrrolo[3,4-c]pyrrole | CC1=C(OC=C1)C(=O)N1CC2CN(CC2C1)C1=NC=C(C=C1)C(F)(F)F | C18H18F3N3O2
